2117-12-11 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No events overnight.
   Received 2 U blood, Hct bumped from 24.3 -> 30.1 -> 27.2 this AM.
   Holding off on further transfusion this AM per surgery.
   This AM, patient having nausea, dry heaves.  Given zofran IV.  Also c/o
   RUQ pain, given morphine IV once with good effect.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-12-10**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-11**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.6
   HR: 99 (98 - 117) bpm
   BP: 143/81(97) {115/60(72) - 143/84(97)} mmHg
   RR: 23 (20 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,624 mL
                                                                    543 mL
   PO:
           TF:
   IVF:
                                                                    500 mL
                                                                    500 mL
   Blood products:
                                                                    524 mL
                                                                     43 mL
   Total out:
                                                                  2,700 mL
                                                                    740 mL
   Urine:
                                                                  2,250 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,077 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   Gen: Overweight female, lying in bed, NAD, Awake and alert
   HEENT: NCAT, perrl, OP clear, MMM
   CV: RRR, S1, S2, no m/r/g
   Pulm: CTAB, soft crackes at bases b/l
   Abd: distended, tender to palp in RUQ.  Laparoscopy sites c/d/i.
   hypoactive bowel sounds
   Extrem: no c/c/e, WWP, 2+ DP pulses
   Labs / Radiology
   159 K/uL
   10.0 g/dL
   97
   0.5
   26
   3.4
   4
   104
   140
   27.2 %
   8.5 K/uL
        [image002.jpg] Ca 7.4, Mg 1.8, P 3.4
                            [**2117-12-11**]  01:14 AM
                            [**2117-12-11**]  05:52 AM
   WBC
   8.5
   Hct
   30.1
   27.2
   Plt
   159
   Imaging:
   CT abd/Pelv with contrast (prelim read)
   Tiny focus of hyperdensity adjacent to the surgical bed may represent
   surgical
   staple; however, a small venous or arterial bleed is not excluded.
   Otherwise,
   no evidence of active extravasation. Unchanged appearance of
   high-density
   material in the surgical bed in the perihepatic, perisplenic, and
   perirenal
   space compared to the most recent CT and consistent with hematoma.
   Possible
   subcapsular hematoma at the right inferior border of the liver.
   Assessment and Plan
   47 yo female with history of papillary thyroid carcinoma, hypertension,
   impaired glucose intolerance POD 1 of right adrenalectomy for
   non-hormone secreting tumor admitted for anemia.
   .
   #.
 .H/O HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH,
   PACEMAKER, ICD BLEED) : Most likely source of bleeding is
   intra-abdominal secondary to recent surgery.  The patient is guaiac
   positive, however does not have evidence of frank GI bleed, and has
   hemorrhoids on rectal exam.  She had a CT abdomen which showed
   perihepatic fluid and focus of fluid at the surgical site, which likely
   accounts for her Hct drop.
   - NPO for now as she may require surgical intervention
   - Monitor Q4H Hct, will space out checks if next hct stable
   - Monitor for signs of hemodynamic compromise and treat with IV fluids
   boluses PRN
   - IV PPI for prophylaxis, although less likely to have GI bleed
   - f/u final read CT
   - Appreciate surgery recommendations
   .
   #.  S/P right laparascopic adrenalectomy:  Secondary to non-hormone
   secreting tumor (4cm) per previous endocrine workup.  Will follow
   pathology, pending currently.  Will follow recommendations from primary
   general surgery team.  Monitor for signs of adrenal insufficiency,
   however should be unlikely given no intervention to L adrenal.
   - Morphine for pain control, however will attempt to decrease doses
   given signs of ileus on exam.
   - Tylenol prn for fever/pain control
   .
   #.  Elevated Temp:  The patient is not currently febrile, however
   differential for elevated temp in post-op patient include atelecatsis,
   infection or inflammatory reaction.  Most likely in this patient is
   atelectasis given decreased O2 on RA and evidence of atelectasis at
   bases on CT abd.  However, will monitor for signs of infection.  If the
   patient develops a higher temp (>101.5), will pan culture at that time.
   - Incentive spirometry
   .
   #.  Hypothyroidism:  S/p thyroidectomy and ablation for papillary
   thyroid cancer.  When taking POs will restart home levothyroxine dose,
   137mcg.  Until then, can give IV synthroid.
   .
   #.  Hypocalemia:  Secondary to hypoparathyroidism.  Will restart home
   calcium supplementation when taking POs.
   .
   #.  Impaired glucose tolerance:  Likely pre-diabetic.  Will monitor for
   signs of hyperglycemia and treat with insulin SS.
   .
   #   Hypertension:  Blood pressure is currently well controlled off home
   medications. Will monitor and restart when taking POs.
   ICU Care
   Nutrition: NPO for now, replete lytes prn
   Glycemic Control:  Insulin SS
   Lines:
   18 Gauge - [**2117-12-10**] 06:11 PM
   16 Gauge - [**2117-12-10**] 06:12 PM
   14 Gauge - [**2117-12-10**] 06:13 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments: will start bowel regimen when taking PO, morphine prn
   Communication:  Comments: Patient and husband [**Name (NI) **] [**Telephone/Fax (1) 9959**]
   [**Name2 (NI) 129**] status: Full code
   Disposition: ICU for now, possible callout this afternoon if hct stable

2117-12-11 10:02:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: crit drop post-operatively
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47yo Spanish speaking F with PMH thyroid carcinoma s/p resection now
   s/p elective adrenalectomy (now POD #2) with crit drop on POD #1 and
   suspicion of liver lac during surgery; CT with IV contrast w/o evidence
   of active extravasation.
   24 Hour Events:
   Some nausea and RUQ pain overnight, total 2u PRBC transfused.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-12-11**] 08:01 AM
   Morphine Sulfate - [**2117-12-11**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain, Nausea, dry heaves
   Flowsheet Data as of  [**2117-12-11**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100
   HR: 100 (98 - 117) bpm
   BP: 128/85(95) {115/60(72) - 157/89(107)} mmHg
   RR: 24 (20 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,623 mL
                                                                  1,027 mL
   PO:
           TF:
   IVF:
                                                                    500 mL
                                                                    985 mL
   Blood products:
                                                                    524 mL
                                                                     43 mL
   Total out:
                                                                  2,700 mL
                                                                  1,140 mL
   Urine:
                                                                  2,250 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,077 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Bowel sounds present, Tender: slightly, in RUQ
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   159 K/uL
   97 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.4 mEq/L
   4 mg/dL
   104 mEq/L
   140 mEq/L
   27.2 %
   8.5 K/uL
        [image002.jpg]
                            [**2117-12-11**]  01:14 AM
                            [**2117-12-11**]  05:52 AM
   WBC
   8.5
   Hct
   30.1
   27.2
   Plt
   159
   Cr
   0.5
   Glucose
   97
   Other labs: Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 Intra-abdominal bleed
   - re-check crit, discussed with surgeons and if <25 will transfuse 2u
   and notify them
   - likely due to liver bleed
   - if next crit stable, can space to q8h
   - NPO pending stable crits
Post operative care
   - will provide incentive spirometer, pneumoboots
   - on standing fluids per surgery
   - prn narcotics, will start tylenol prn
Guaiac (+) stool: had hemorrhoids on exam and likely source, but on
   PPI
Low grade temp: culture if spikes, likely post-operative and related
   to clot
Hypothyroidism: will restart levothyroxine today, po if crit stable
   and IV if unstable
Hypoparathyroidism: restart calcium supplement
   ICU Care
   Nutrition:
   Comments: NPO for now, will d/w surgery if
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2117-12-10**] 06:11 PM
   16 Gauge - [**2117-12-10**] 06:12 PM
   14 Gauge - [**2117-12-10**] 06:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Incentive spirometer
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2117-12-12 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -started IV Levothyroxine
   -Hct drop in am to 21, received 2U PRBC, back to OR, took out clots and
   saw one site of active bleeding.  Was tranfsued one additional U of
   PRBC.  Went from 21.1 to 37.4 then down to 36.3 then 35.8 post op.
   -was reintubated in PACU for tachypnea.  plan to stay intubated until
   am.  Was changed from PS to AC in ICU due to aggitation and need for
   more sedation with bolused fentanyl. On AC 440/16/5/.50 ABG was
   7.39/38/164 so decreased to .40.
   -repleted K and Calcium (quite low), and Mg
   -increasing WBC so sent diff
   -spike to 101.3 at m/n, sent urine and blood.  were considering
   starting vanc/zosyn but surgery felt would hold for now.
   -ET tube was placed too far.  Withdrawn multiple times and at m/n 1 cm
   above carina.
 OR SENT - At [**2117-12-11**] 12:49 PM
 OR RECEIVED - At [**2117-12-11**] 05:10 PM
 INVASIVE VENTILATION - START [**2117-12-11**] 05:12 PM
 URINE CULTURE - At [**2117-12-12**] 02:45 AM
 FEVER - 101.3
F - [**2117-12-12**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 75 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-12-11**] 08:01 AM
   Morphine Sulfate - [**2117-12-11**] 11:25 AM
   Fentanyl - [**2117-12-12**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-12**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.4
C (101.1
   HR: 99 (92 - 110) bpm
   BP: 142/83(97) {111/53(64) - 154/91(105)} mmHg
   RR: 19 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,394 mL
                                                                  1,547 mL
   PO:
             TF:
   IVF:
                                                                  2,788 mL
                                                                  1,547 mL
   Blood products:
                                                                    607 mL
   Total out:
                                                                  2,990 mL
                                                                    715 mL
   Urine:
                                                                  2,990 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    404 mL
                                                                    832 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 440 (440 - 440) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 61
   PIP: 9 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.39/38/164/22/-1
   Ve: 7.2 L/min
   PaO2 / FiO2: 328
   Physical Examination
   Gen: Overweight female, lying in bed, NAD, Awake and alert
   HEENT: NCAT, perrl, OP clear, MMM
   CV: RRR, S1, S2, no m/r/g
   Pulm: CTAB, soft crackes at bases b/l
   Abd: distended, tender to palp in RUQ.  Laparoscopy sites c/d/i.
   hypoactive bowel sounds
   Extrem: no c/c/e, WWP, 2+ DP pulses
   Labs / Radiology
   169 K/uL
   12.6 g/dL
   95 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.7 mEq/L
   5 mg/dL
   110 mEq/L
   141 mEq/L
   35.3 %
   10.2 K/uL
        [image002.jpg]
                            [**2117-12-11**]  01:14 AM
                            [**2117-12-11**]  05:52 AM
                            [**2117-12-11**]  10:02 AM
                            [**2117-12-11**]  01:35 PM
                            [**2117-12-11**]  02:50 PM
                            [**2117-12-11**]  06:20 PM
                            [**2117-12-11**]  06:39 PM
                            [**2117-12-11**]  10:24 PM
                            [**2117-12-12**]  04:50 AM
   WBC
   8.5
   10.5
   11.3
   12.2
   10.2
   Hct
   30.1
   27.2
   21.1
   33.0
   37.4
   36.3
   35.8
   35.3
   Plt
   159
   157
   156
   162
   169
   Cr
   0.5
   0.5
   0.6
   0.5
   TCO2
   24
   Glucose
   97
   112
   96
   95
   Other labs: PT / PTT / INR:11.9/21.7/1.0, ALT / AST:136/147, Alk Phos /
   T Bili:42/1.1, Differential-Neuts:81.1 %, Lymph:13.8 %, Mono:3.6 %,
   Eos:1.3 %, Fibrinogen:588 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.9
   g/dL, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   _______________________________________________________________________
   Source: Catheter
   Color
   Yellow
   Appear
   Clear
   SpecGr
   1.011
   pH
   5.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Neg
   Bld
   Neg
   Nitr
   Neg
   Prot
   Neg
   Glu
   Neg
   Ket
   80
   [**12-12**] Blood and urine cx pending
   [**12-12**] CXR in OMR
   Assessment and Plan
   47 yo female with history of papillary thyroid carcinoma, hypertension,
   impaired glucose intolerance POD 1 of right adrenalectomy for
   non-hormone secreting tumor admitted for anemia.
   .
   #.
 .H/O HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH,
   PACEMAKER, ICD BLEED) : Most likely source of bleeding is
   intra-abdominal secondary to recent surgery.  The patient is guaiac
   positive, however does not have evidence of frank GI bleed, and has
   hemorrhoids on rectal exam.  She had a CT abdomen which showed
   perihepatic fluid and focus of fluid at the surgical site, which likely
   accounts for her Hct drop.
   - NPO for now as she may require surgical intervention
   - Monitor Q4H Hct, will space out checks if next hct stable
   - Monitor for signs of hemodynamic compromise and treat with IV fluids
   boluses PRN
   - IV PPI for prophylaxis, although less likely to have GI bleed
   - f/u final read CT
   - Appreciate surgery recommendations
   .
   #.  S/P right laparascopic adrenalectomy:  Secondary to non-hormone
   secreting tumor (4cm) per previous endocrine workup.  Will follow
   pathology, pending currently.  Will follow recommendations from primary
   general surgery team.  Monitor for signs of adrenal insufficiency,
   however should be unlikely given no intervention to L adrenal.
   - Morphine for pain control, however will attempt to decrease doses
   given signs of ileus on exam.
   - Tylenol prn for fever/pain control
   .
   #.  Elevated Temp:  The patient is not currently febrile, however
   differential for elevated temp in post-op patient include atelecatsis,
   infection or inflammatory reaction.  Most likely in this patient is
   atelectasis given decreased O2 on RA and evidence of atelectasis at
   bases on CT abd.  However, will monitor for signs of infection.  If the
   patient develops a higher temp (>101.5), will pan culture at that time.
   - Incentive spirometry
   .
   #.  Hypothyroidism:  S/p thyroidectomy and ablation for papillary
   thyroid cancer.  When taking POs will restart home levothyroxine dose,
   137mcg.  Until then, can give IV synthroid.
   .
   #.  Hypocalemia:  Secondary to hypoparathyroidism.  Will restart home
   calcium supplementation when taking POs.
   .
   #.  Impaired glucose tolerance:  Likely pre-diabetic.  Will monitor for
   signs of hyperglycemia and treat with insulin SS.
   .
   #   Hypertension:  Blood pressure is currently well controlled off home
   medications. Will monitor and restart when taking POs.
   ICU Care
   Nutrition: NPO for now, replete lytes prn
   Glycemic Control:  Insulin SS
   Lines:
   18 Gauge - [**2117-12-10**] 06:11 PM
   16 Gauge - [**2117-12-10**] 06:12 PM
   14 Gauge - [**2117-12-10**] 06:13 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments: will start bowel regimen when taking PO, morphine prn
   Communication:  Comments: Patient and husband [**Name (NI) **] [**Telephone/Fax (1) 9959**]
   [**Name2 (NI) 129**] status: Full code
   Disposition: ICU for now

2117-12-13 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No events overnight
   Surgery recs: Bedrest x 3 days so encouraged incentive spirometry, keep
   NPO
   This AM patient reports feeling well overall with minimal pain in RUQ,
   mostly when moving or coughing.  Also has intermittent nausea, but has
   had no emesis overnight.  + flatus and BM this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-12-12**] 04:08 PM
   Pantoprazole (Protonix) - [**2117-12-12**] 07:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-13**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 91 (87 - 99) bpm
   BP: 148/77(93) {121/68(83) - 154/89(106)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,397 mL
                                                                    871 mL
   PO:
             TF:
   IVF:
                                                                  3,397 mL
                                                                    871 mL
   Blood products:
   Total out:
                                                                  2,845 mL
                                                                    785 mL
   Urine:
                                                                  2,845 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    552 mL
                                                                     86 mL
   Respiratory support
   O2 Delivery Device: None
   Physical Examination
   Gen: Overweight female, lying in bed, NAD, Awake and alert
   CV: RRR, S1, S2, no m/r/g
   Pulm: CTAB, soft crackes at bases b/l
   Abd: distended and firm in RUQ, slightly tender to palp in RUQ.
   Laparoscopy sites c/d/i.  + bowel sounds
   Extrem: 1+ LE edema, 2+ pulses thorughout.
   Labs / Radiology
   190 K/uL
   12.1 g/dL
   77 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.5 mEq/L
   9 mg/dL
   107 mEq/L
   141 mEq/L
   33.9 %
   9.8 K/uL
        [image002.jpg]
                            [**2117-12-11**]  01:35 PM
                            [**2117-12-11**]  02:50 PM
                            [**2117-12-11**]  06:20 PM
                            [**2117-12-11**]  06:39 PM
                            [**2117-12-11**]  10:24 PM
                            [**2117-12-12**]  04:50 AM
                            [**2117-12-12**]  08:51 AM
                            [**2117-12-12**]  11:55 AM
                            [**2117-12-12**]  06:28 PM
                            [**2117-12-13**]  01:47 AM
   WBC
   10.5
   11.3
   12.2
   10.2
   9.8
   Hct
   33.0
   37.4
   36.3
   35.8
   35.3
   34.9
   36.8
   34.8
   33.9
   Plt
   157
   156
   162
   169
   190
   Cr
   0.5
   0.6
   0.5
   0.5
   TCO2
   24
   Glucose
   112
   96
   95
   77
   Other labs: PT / PTT / INR:11.9/21.7/1.0, ALT / AST:104/86, Alk Phos /
   T Bili:56/1.3, Differential-Neuts:81.1 %, Lymph:13.8 %, Mono:3.6 %,
   Eos:1.3 %, Fibrinogen:588 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:3.0
   g/dL, LDH:299 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: No new imaging this AM
   Microbiology:
   [**12-12**] U/A neg
   [**12-12**] Blood Cx pending
   [**12-12**] Urine Cx neg
   Assessment and Plan
   47 yo female with history of papillary thyroid carcinoma, hypertension,
   impaired glucose intolerance POD 2 of right adrenalectomy for
   non-hormone secreting tumor admitted for anemia, POD 2 from
   re-exploration for post-op bleeding.
 .H/O HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER,
   ICD BLEED) : Was taken  back to the OR due to bleed, likely around
   liver which was stopped intraoperatively; clots evacuated.  Now Hct
   stable and doing well.
   - NPO for now, but will discuss advancing to clears with surgery
   - Monitor Q8h Hct, will space out  to q12 if next Hct stable
   - Monitor for signs of hemodynamic compromise and treat with IV fluids
   boluses PRN
   - IV PPI can likely be changed to po
   - Appreciate surgery recommendations
   #.  S/P right laparascopic adrenalectomy:  Secondary to non-hormone
   secreting tumor (4cm) per previous endocrine workup.  Will follow
   recommendations from primary general surgery team.  Monitor for signs
   of adrenal insufficiency, however should be unlikely given no
   intervention to L adrenal.
   - Morphine prn for  pain control
   - Will follow pathology, pending currently.
   #.  Elevated Temp:  Fevers overnight, likely related to recent
   surgery.  Could also be developing pneumonia, but more likely related
   to atelectasis in the post-op setting.
   - Incentive spirometry
   #.  Hypothyroidism:  S/p thyroidectomy and ablation for papillary
   thyroid cancer.  When taking POs will restart home levothyroxine dose,
   137mcg.  Until then, can give IV synthroid.
   #.  Hypocalemia:  Secondary to hypoparathyroidism.  Will restart home
   calcium supplementation when taking POs.
   #.  Impaired glucose tolerance:  Likely pre-diabetic.  Will monitor for
   signs of hyperglycemia and treat with insulin SS.
   #   Hypertension:  Blood pressure is currently well controlled off home
   medications. Will monitor and restart when taking POs.
   ICU Care
   Nutrition: NPO; touch base with surgery about advancing to clears
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2117-12-10**] 06:11 PM
   16 Gauge - [**2117-12-10**] 06:12 PM
   14 Gauge - [**2117-12-10**] 06:13 PM
   Prophylaxis:
   DVT: Pneumatic boots
   Stress ulcer: PPI
   VAP:
   Comments: pain control with morphine PRN
   Communication:  Comments: Patient and husband [**Name (NI) **] [**Telephone/Fax (1) 9959**]
   [**Name2 (NI) 129**] status: Full code
   Disposition: Call out to surgery floor

2117-12-13 11:35:00 Physician Attending Progress Note
Chief Complaint: intra-abd bleeding
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  47yo F with PMH papillary thyroid cancer s/p resection,
   hypertension and glucose intolerance who is now POD 4 from elective
   resection of adrenal adenoma and POD 2 from re-op for liver bleed
   post-operatively.
   24 Hour Events:
   extubated yesterday
   no acute issues overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-12-12**] 04:08 PM
   Pantoprazole (Protonix) - [**2117-12-13**] 08:49 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-13**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 91 (87 - 98) bpm
   BP: 148/77(93) {121/68(83) - 154/89(106)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,397 mL
                                                                  1,619 mL
   PO:
             TF:
   IVF:
                                                                  3,397 mL
                                                                  1,619 mL
   Blood products:
   Total out:
                                                                  2,845 mL
                                                                  1,085 mL
   Urine:
                                                                  2,845 mL
                                                                  1,085 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    552 mL
                                                                    534 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear , decreased bb
   Abdominal: Soft, Bowel sounds present but decreased, midly Distended,
   Tender:, surgical sites clean
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   12.1 g/dL
   190 K/uL
   77 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.5 mEq/L
   9 mg/dL
   107 mEq/L
   141 mEq/L
   35.8 %
   9.8 K/uL
        [image002.jpg]
                            [**2117-12-11**]  02:50 PM
                            [**2117-12-11**]  06:20 PM
                            [**2117-12-11**]  06:39 PM
                            [**2117-12-11**]  10:24 PM
                            [**2117-12-12**]  04:50 AM
                            [**2117-12-12**]  08:51 AM
                            [**2117-12-12**]  11:55 AM
                            [**2117-12-12**]  06:28 PM
                            [**2117-12-13**]  01:47 AM
                            [**2117-12-13**]  10:05 AM
   WBC
   11.3
   12.2
   10.2
   9.8
   Hct
   37.4
   36.3
   35.8
   35.3
   34.9
   36.8
   34.8
   33.9
   35.8
   Plt
   156
   162
   169
   190
   Cr
   0.5
   0.6
   0.5
   0.5
   TCO2
   24
   Glucose
   112
   96
   95
   77
   Other labs: PT / PTT / INR:11.9/21.7/1.0, ALT / AST:104/86, Alk Phos /
   T Bili:56/1.3, Differential-Neuts:81.1 %, Lymph:13.8 %, Mono:3.6 %,
   Eos:1.3 %, Fibrinogen:588 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:3.0
   g/dL, LDH:299 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: u/a neg
   Microbiology: [**12-12**]--bl ngtd
   urine neg
   Assessment and Plan
   #Postoperative bleed
   --Co-managing with surgery
   - h/h remain stable
   -- follow [**Hospital1 **]
   # Postoperative care
   -incentive spirometer
   -pneumoboots
   -pain control, morphine prn
   -advance diet and resume PO medications
   # Fever,
    Low grade, ? post-operatively atelectasis, no overt infectious signs
   -pan cultures with NGTD
   -Holding on empiric antibiotics
   -Follow clinically
   # Adenoma
   -s/p resection, f/u pathology
   # Hypothyroidism: on IV replacement , change to PO dosing
   # Impaired glucose tolerance:  sliding scale insulin as increasing PO
   intake
   Remainder as per resident note
   ICU Care
   Nutrition:  advance diet, can take PO medications
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-12-10**] 06:11 PM
   16 Gauge - [**2117-12-10**] 06:12 PM
   14 Gauge - [**2117-12-10**] 06:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for floor transfer
   Total time spent: 40 minutes